* C:\Users\emanu\Documents\POLITO\ANALOGICA\ANALabs\Lab1\Sim\SampleAndHold_TrasmissionGate.asc
M N005 N003 Vtrasmission Vtrasmission CD4007_nmos
M§P Vtrasmission N004 N005 N005 CD4007_pmos
M§P_inv N004 N003 N002 N002 CD4007_pmos
M_inv N004 N003 0 0 CD4007_nmos
Vin N005 0 PULSE(0 10 0 1m 1m 0 2m)
Vclk N003 0 PULSE(0 10 0 0 0 50u 100u)
Vdd N002 0 10
C1 N006 0 200p
R1 N006 0 1Meg
C2 N008 N007 47µ
R2 N007 0 1.2k
R3 N007 Vtrasmission 110k
M1 N006 N008 0 0 CD4007_nmos
R4 N006 N001 150k
V1 N001 0 10
R6 N001 N009 50k
R7 N009 0 50k
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\emanu\AppData\Local\LTspice\lib\cmp\standard.mos
.lib CD4007.lib
.tran 0 8m 0 0.001
.backanno
.end
